US08012974B2
To a flask containing HCl (37%, 5 mL) and methanol (155 mL) was added cis 2-[3-(tert-butyl-dimethyl-silanyloxy)-cyclopentyl]-5,6-dichloro-isoindole-1,3-dione (1.7 g, 4.1 mmol). The mixture was placed in an ultrasound bath until all of the solid had dissolved (15 minutes) then evaporated to give cis 5,6-dichloro-2-(3-hydroxy-cyclopentyl)-2,3-dihydro-1H-isoindole-1,3-diol (1.172 g, 95% yield).

reactant | HCl | 5 mL | Cl | ClH
reactant | cis 2-[3-(tert-butyl-dimethyl-silanyloxy)-cyclopentyl]-5,6-dichloro-isoindole-1,3-dione | 4.1 mmol, 1.7 g | C(C)(C)(C)[Si](O[C@H]1C[C@H](CC1)N1C(C2=CC(=C(C=C2C1=O)Cl)Cl)=O)(C)C | C19H25Cl2NO3Si
solvent | methanol | 155 mL | CO | CH4O
product | cis 5,6-dichloro-2-(3-hydroxy-cyclopentyl)-2,3-dihydro-1H-isoindole-1,3-diol | 1.172 g, 95% yield | ClC=1C=C2[C@H](N([C@H](C2=CC1Cl)O)C1CC(CC1)O)O | C13H15Cl2NO3
